US06649643B1
Production of 6-[1-Hydroxy-1-(1H-imidazol-4-yl)-3-methylbutyl]-N-methyl-2-naphthamide
The similar reaction as described in Example 50-(i) was carried out by using N-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthamide (500 mg) and isobutyl-magnesium bromide in THF (1M; 5 mL) to give the titled compound (188 mg) as colorless powder.

reactant | N-methyl-6-[(1-trityl-1H-imidazol-4-yl)carbonyl]-2-naphthamide | 500 mg | CNC(=O)C1=CC2=CC=C(C=C2C=C1)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H27N3O2
reactant | isobutyl-magnesium bromide | C(C(C)C)[Mg]Br
solvent | THF | 1M, 5 mL | C1CCOC1 | C4H8O
product | 6-[1-Hydroxy-1-(1H-imidazol-4-yl)-3-methylbutyl]-N-methyl-2-naphthamide | 188 mg | OC(CC(C)C)(C=1N=CNC1)C=1C=C2C=CC(=CC2=CC1)C(=O)NC | C20H23N3O2
